US08633315B2
A solution of tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxyhex-5-en-3-ylcarbamate (1.0 g, 2.9 mmol) and Grubbs Catalyst 2nd generation (0.12 g, 0.14 mmol) in DCE (6 mL) was treated with methylenecyclobutane (0.79 g, 12 mmol) and heated to 80° C. in a sealed vial overnight. The reaction mixture was diluted with EtOAc, washed with saturated NaHCO3 solution, and brine. The organics were dried over MgSO4 and concentrated under reduced pressure. Purification of the crude residue by column chromatography gave tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-5-cyclobutylidene-1-hydroxypentan-3-ylcarbamate (0.900 g, 81% yield) as a 2:1 mixture with starting alkene.

reactant | tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxyhex-5-en-3-ylcarbamate | 2.9 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H](CO)[C@H](CC=C)NC(OC(C)(C)C)=O | C17H35NO4Si
reactant | methylenecyclobutane | 12 mmol, 0.79 g | C=C1CCC1 | C5H8
catalyst | Grubbs Catalyst 2nd generation | 0.14 mmol, 0.12 g | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-5-cyclobutylidene-1-hydroxypentan-3-ylcarbamate | 0.900 g, 81% yield | [Si](C)(C)(C(C)(C)C)O[C@H](CO)[C@H](CC=C1CCC1)NC(OC(C)(C)C)=O | C20H39NO4Si
